US05663200
44d) 5(S)-(Boc-Amino)-4(S)-hydroxy-6-phenyl-2(R)-[(3,4-methylenedioxyphenyl)methyl]hexanoic acid
A solution of 278 mg of 5(S)-[1(S)-(Boc-amino)-2-phenylethyl]-3(R)-[(3,4-methylenedioxyphenyl)methyl]dihydrofuran-2-(3H)-one in 10.25 ml of ethylene glycol dimethyl ether and 5.15 ml of water is treated dropwise, at RT, with 2,53 ml of a 1M lithium hydroxide solution. After that, the reaction mixture is stirred at RT for 3 h, diluted with ethyl acetate and THF, and washed in a separating funnel until neutral with a mixture consisting of 31 ml of sat. ammonium chloride solution and 2.6 ml of 10% citric acid solution, followed by saline and water. The title compound, which is subjected to further processing without any further purification, is obtained after drying over sodium sulfate and removing the solvent. FAB-MS (M+H)+ =458.

reactant | 5(S)-[1(S)-(Boc-amino)-2-phenylethyl]-3(R)-[(3,4-methylenedioxyphenyl)methyl]dihydrofuran-2-(3H)-one | 278 mg | C(=O)(OC(C)(C)C)N[C@@H](CC1=CC=CC=C1)[C@@H]1C[C@H](C(O1)=O)CC1=CC2=C(C=C1)OCO2 | C25H29NO6
reactant | lithium hydroxide | 1M | [OH-].[Li+]
reactant | ethylene glycol dimethyl ether | 10.25 ml | COCCOC | C4H10O2
solvent | water | 5.15 ml | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | THF | C1CCOC1 | C4H8O
product | 5(S)-(Boc-Amino)-4(S)-hydroxy-6-phenyl-2(R)-[(3,4-methylenedioxyphenyl)methyl]hexanoic acid | C(=O)(OC(C)(C)C)N[C@H]([C@H](C[C@H](C(=O)O)CC1=CC2=C(C=C1)OCO2)O)CC2=CC=CC=C2 | C25H31NO7
